US04455422
5.0 Grams of 6-(1-oxo-2-chloroethyl)-3,4-dihydrocarbostyril and 6.0 g of morpholine were dispersed in 120 ml of dioxane and stirred at 60°-70° C. for 12 hours. The reaction mixture was concentrated under a reduced pressure. The residue thus obtained was stirred with ether and the insoluble matter was collected by filtration and washed with water. Then the insoluble matter was dissolved in 80 ml of methanol and 10 ml of concentrated hydrochloric acid by heating and the solution was concentrated under a reduced pressure to dryness. The residue thus obtained was recrystallized from methanol-ether twice and obtained 5.9 g of 6-(1-oxo-2-morpholinoethyl)-3,4-dihydrocarbostyril monohydrochloride in colorless powdery product.

reactant | 6-(1-oxo-2-chloroethyl)-3,4-dihydrocarbostyril | O=C(CCl)C=1C=C2CCC(NC2=CC1)=O | C11H10ClNO2
reactant | morpholine | 6.0 g | N1CCOCC1 | C4H9NO
reactant | ether | CCOCC | C4H10O
solvent | dioxane | 120 ml | O1CCOCC1 | C4H8O2
product | 6-(1-oxo-2-morpholinoethyl)-3,4-dihydrocarbostyril monohydrochloride | 5.9 g | Cl.O=C(CN1CCOCC1)C=1C=C2CCC(NC2=CC1)=O | InChI=1S/C15H18N2O3.ClH/c18-14(10-17-5-7-20-8-6-17)12-1-3-13-11(9-12)2-4-15(19)16-13;/h1,3,9H,2,4-8,10H2,(H,16,19);1H
